** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment2/assign2b.sch
**.subckt assign2b
XM1 Vout GND VDD VDD sky130_fd_pr__pfet_01v8 L=0.30 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 Vout Vin GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
Vin1 VDD GND 1.8
Vin Vin GND 1.8
**** begin user architecture code


.control
dc Vin 0 1.8 0.01

* 1. Calculate the Derivative (Gain)
let dvout = deriv(v(Vout))

* 2. Find Unity Gain Points (where gain = -1)
meas dc vil find v(Vin) when dvout=-1 rise=1
meas dc vih find v(Vin) when dvout=-1 fall=1

* 3. Get VOH and VOL at those exact points
meas dc voh find v(Vout) when v(Vin)=vil
meas dc vol find v(Vout) when v(Vin)=vih

* 4. Calculate and Print the Noise Margins
* NM_L = VIL - VOL
* NM_H = VOH - VIH
let nml = vil - vol
let nmh = voh - vih

print nml
print nmh
.endc


.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends
.GLOBAL GND
.GLOBAL VDD
.end
