** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment2/assign2b.sch
**.subckt assign2b
XM1 Vout GND VDD VDD sky130_fd_pr__pfet_01v8 L=0.30 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 Vout Vin GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
Vin1 VDD GND 1.8
Vin Vin GND 1.8
**** begin user architecture code


.control
dc Vin 0 1.8 0.01

let dvout = deriv(v(Vout))
plot dvout
print -i(Vin1) * 1.8

* Unity-gain points and corresponding outputs, for noise margins (Part 2(b))
meas dc vil find v(Vin) when dvout=-1 rise=1
meas dc vih find v(Vin) when dvout=-1 fall=1
meas dc voh find v(Vout) when v(Vin)=vil
meas dc vol find v(Vout) when v(Vin)=vih

* Noise margins (standard definition: NM_L=VIL-VOL, NM_H=VOH-VIH)
let nml = vil - vol
let nmh = voh - vih
print nml
print nmh

* Static current/power at Vin=VDD, for Part 2(c)
meas dc istat find i(Vin1) at=1.8
.endc


.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends
.GLOBAL GND
.GLOBAL VDD
.end
